### PR TITLE
[Merged by Bors] - chore(List/TakeWhile): golf and move `dropWhile_eq_self_iff`

### PR DESCRIPTION
**Pull request by BoltonBailey**
Adds a lemma about dropWhile length, allowing `dropWhile_eq_self_iff` to be reproved and moved to a more appropriate file.

This lemma was found while doing work for [Project Numina](https://projectnumina.ai/).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/TakeWhile.lean [hunk 1]
```diff
@@ -33,6 +43,21 @@ theorem dropWhile_eq_nil_iff : dropWhile p l = [] ↔ ∀ x ∈ l, p x := by
   | nil => simp [dropWhile]
   | cons x xs IH => by_cases hp : p x <;> simp [hp, IH]
 
+@[simp]
+theorem dropWhile_eq_self_iff : dropWhile p l = l ↔ ∀ hl : 0 < l.length, ¬p (l.get ⟨0, hl⟩) := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/TakeWhile.lean]: I think the RHS is supposed to be `l[0]'hl ` now

File: Mathlib/Data/List/TakeWhile.lean [hunk 2]
```diff
@@ -25,6 +25,16 @@ theorem dropWhile_get_zero_not (l : List α) (hl : 0 < (l.dropWhile p).length) :
...
 
+theorem length_dropWhile_le (l : List α) : (dropWhile p l).length ≤ l.length := by
+  induction l with
+  | nil => simp
+  | cons head tail ih =>
+    simp only [dropWhile, length_cons]
+    by_cases h_p_head : p head
+    · simp only [h_p_head]
+      omega
+    · simp [h_p_head]
```
Comment (eric-wieser) [inline Mathlib/Data/List/TakeWhile.lean]:
```suggestion
    split
    · omega
    · simp
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer merge

**Comment by bryangingechen** [comment]
Thanks!
bors r+
